US07759381B2
3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-fluoromethyl-4-trifluoromethylthiopyrazole (Compound No 3)
Dimethylaminosulfur trifluoride (2.27 mL) was added to a solution of 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-hydroxymethyl-4-trifluoromethylthiopyrazole (2.9 g) in dichloromethane. After stirring for 3 hours, water was added followed by dichloromethane. The organic phase was washed with an aqueous solution of saturated sodium bicarbonate, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give a residue that was purified by chromatography (SiO2, heptane/EA) to afford the title compound as a white solid (2.45 g, 84%). 1H NMR: (400 MHz, CDCl3): 5.38 (d, J=47.5 Hz, 2H) and 7.83 (s, 2H). 19F NMR (376 MHz, CDCl3): −43.83 (s, 3F), −63.76 (s, 3F) and −84.12 (t, J=47.5 Hz, 1F).

reactant | Dimethylaminosulfur trifluoride | 2.27 mL | CN(C)S(F)(F)F | C2H6F3NS
reactant | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-hydroxymethyl-4-trifluoromethylthiopyrazole | 2.9 g | C(#N)C1=NN(C(=C1SC(F)(F)F)CO)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H5Cl2F6N3OS
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-fluoromethyl-4-trifluoromethylthiopyrazole | 2.45 g, 84% | C(#N)C1=NN(C(=C1SC(F)(F)F)CF)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H4Cl2F7N3S
